US05990101
c) 3-(formylamino)methyl-2-methylimidazo[5,1-b]thiazole
A mixture of 0.94 ml of formic acid and 0.47 ml of acetic anhydride which had been beforehand reacted with each other at 50° C. for 30 minutes was added at room temperature to 5 ml of a dry dichloromethane solution containing 167 mg of 3-aminomethyl-2-methylimidazo[5,1-b]thiazole, and the mixture was then stirred at the same temperature for 1 hour. Then, an aqueous potassium carbonate solution was added to the reaction solution to alkalify the same. The organic layer was separated, and the aqueous layer was further extracted five times with dichloromethane. The combined organic layer was dried over anhydrous sodium sulfate and then filtered, and the solvent was evaporated under reduced pressure to obtain 117 mg of the title compound.

reactant | formic acid | 0.94 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 0.47 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-aminomethyl-2-methylimidazo[5,1-b]thiazole | 167 mg | NCC=1N2C(SC1C)=CN=C2 | C7H9N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(formylamino)methyl-2-methylimidazo[5,1-b]thiazole | 117 mg | C(=O)NCC=1N2C(SC1C)=CN=C2 | C8H9N3OS
